US03978121
A. 3-methylmercapto-5H-dibenzo[a,d]cyclohepten-5-ol
3-Methylmercapto-5H-dibenzo[a,d]cyclohepten-5-one, 27.9 g. (0.11 mole), is dissolved in 500 ml. of methanol. The solution is stirred and heated to refluxing while a solution of 14.9 g. (0.276 mole) of potassium borohydride in 150 ml. of water containing 0.2 ml. of 10 N. sodium hydroxide is added dropwise. After stirring at reflux for 2 hours, the solution is chilled and the precipitated product collected and washed with methanol yielding, typically, 27 g. (96%). An analytical sample melts at 117°-118.5°C. after repeated recrystallizations from methanol.

reactant | 3-Methylmercapto-5H-dibenzo[a,d]cyclohepten-5-one | CSC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C1 | C16H12OS
reactant | methanol | CO | CH4O
reactant | potassium borohydride | 0.276 mole | [BH4-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 0.2 ml | O | H2O
product | 3-methylmercapto-5H-dibenzo[a,d]cyclohepten-5-ol | CSC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)O)C1 | C16H14OS
